US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-(1-methylpiperidin-4-yl)acetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-{2-[(1-methylpiperidin-4-yl)amino]ethoxy}quinazolin-4-amine and acetyl chloride to give the title compound in 41% yield; NMR spectrum (DMSO-d6) 1.62-1.90 (m, 4H), 2.09 (s, 3H), 2.15-2.43 (m, 4H), 2.79-3.13 (m, 3H), 3.76-3.83 (m, 2H), 3.86-3.92 (m, 1H), 4.30-4.47 (m, 2H), 5.31 (s, 2H), 7.21 (d, 1H), 7.26 (d, 1H), 7.32-7.40 (m, 2H), 7.57-7.61 (m, 2H), 7.69-7.75 (m, 1H), 7.86-7.92 (m, 1H), 7.98-8.00 (m, 1H), 8.46 (s, 1H), 8.61 (d, 1H), 9.95 (s, 1H); Mass spectrum MH+ 561.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-{2-[(1-methylpiperidin-4-yl)amino]ethoxy}quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC1CCN(CC1)C | C28H31ClN6O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-(1-methylpiperidin-4-yl)acetamide | 41% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C1CCN(CC1)C | C30H33ClN6O3
